US07638638B2
Phenyl vinyl sulfone (1.0 g, 5.94 mmol), glycine methyl ester-HCl salt (750 mg, 5.94 mmol), and triethylamine (1.66 mL, 11.9 mmol) were combined in EtOH (25 mL) and heated at 54° C. for 2 h. Di-tert-butyl dicarbonate (1.43 g, 6.53 mmol) was added, and the reaction stirred 1 h longer before it was allowed to cool. The solution was concentrated in vacuo, and the residue was dissolved in EtOAc. Organics were washed with H2O and brine, dried (Na2SO4), and concentrated in vacuo. Purification by silica gel chromatography (25% EtOAc/hexanes) gave 2.06 g (97%) of [(2-benzenesulfonyl-ethyl)-BOC-amino]-acetic acid methyl ester as a clear oil. 1H NMR (300 MHz, CDCl3): δ 7.90 (d, 2H, J=5.7 Hz), 7.52-7.70 (m, 3H), 3.95 (d, 2H, J=6.6 Hz), 3.43-3.74 (m, 7H), 1.35 (s, 9H).

reactant | Phenyl vinyl sulfone | 5.94 mmol, 1.0 g | C(=C)S(=O)(=O)C1=CC=CC=C1 | C8H8O2S
reactant | glycine methyl ester-HCl salt | 5.94 mmol, 750 mg | Cl.COC(CN)=O
reactant | triethylamine | 11.9 mmol, 1.66 mL | C(C)N(CC)CC | C6H15N
reactant | Di-tert-butyl dicarbonate | 6.53 mmol, 1.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | EtOH | 25 mL | CCO | C2H6O
product | [(2-benzenesulfonyl-ethyl)-BOC-amino]-acetic acid methyl ester | 2.06 g, 97% | COC(CN(C(=O)OC(C)(C)C)CCS(=O)(=O)C1=CC=CC=C1)=O | C16H23NO6S
